US07960394B2
8-Fluoro-2-(2-methoxy-4-{3[(3S)-3-methylpiperidin-1-yl]propoxy}phenyl)-3-methylquinazolin-4(3H)-one
The entitled compound was obtained according to the method of Example 15 but starting from 2-amino-3-fluorobenzoic acid, methylamine and 2-methoxy-4-{3-[(3S)-3-methylpiperidin-1-yl]propoxy}benzaldehyde.

reactant | 2-amino-3-fluorobenzoic acid | NC1=C(C(=O)O)C=CC=C1F | C7H6FNO2
reactant | methylamine | CN | CH5N
reactant | 2-methoxy-4-{3-[(3S)-3-methylpiperidin-1-yl]propoxy}benzaldehyde | COC1=C(C=O)C=CC(=C1)OCCCN1C[C@H](CCC1)C | C17H25NO3
product | 8-Fluoro-2-(2-methoxy-4-{3[(3S)-3-methylpiperidin-1-yl]propoxy}phenyl)-3-methylquinazolin-4(3H)-one | FC=1C=CC=C2C(N(C(=NC12)C1=C(C=C(C=C1)OCCCN1C[C@H](CCC1)C)OC)C)=O | C25H30FN3O3
